US04150153
Ethereal hydrogen chloride is added dropwise to a solution of 1.0 g. 1-(2-naphthoylmethyl)imidazole in 100 ml. anhydrous benzene until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized from methanol/acetone to yield 1-(2-naphthoylmethyl)imidazole hydrochloride, m.p. 226°-228.5° C. (decomp.)

reactant | hydrogen chloride | Cl | ClH
reactant | 1-(2-naphthoylmethyl)imidazole | C1=C(C=CC2=CC=CC=C12)C(=O)CN1C=NC=C1 | C15H12N2O
product | 1-(2-naphthoylmethyl)imidazole hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(=O)CN1C=NC=C1 | InChI=1S/C15H12N2O.ClH/c18-15(10-17-8-7-16-11-17)14-6-5-12-3-1-2-4-13(12)9-14;/h1-9,11H,10H2;1H
